US05043142
To a solution of 355 mg (8.88 mmol) of sodium hydride contained at 60% in mineral oil in dry dimethylformamide (60 ml) was added 851 mg (5.67 mmol) of triethylene glycol in an atmosphere of argon, and the mixture was reacted at 40°-50° C. for 30 min. followed by addition of 3.37 g (13.5 mmol) of 4-bromobenzyl bromide. The mixture was allowed to react at room temperature for 18 hours. To the reaction mixture at 0° C. was added a saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane yielded 2.51 g (5.14 mmol) of 1,12-bis(4-bromophenyl)-2,5,8,11-tetraoxadodecane.

reactant | sodium hydride | 8.88 mmol, 355 mg | [H-].[Na+]
reactant | triethylene glycol | 5.67 mmol, 851 mg | C(COCCOCCO)O | C6H14O4
reactant | 4-bromobenzyl bromide | 13.5 mmol, 3.37 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1,12-bis(4-bromophenyl)-2,5,8,11-tetraoxadodecane | 5.14 mmol, 2.51 g | BrC1=CC=C(C=C1)COCCOCCOCCOCC1=CC=C(C=C1)Br | C20H24Br2O4
